US08703810B2
Step 4: 1-(2-Fluoro-3,6-dimethoxyphenyl)-2-(3-methoxyphenyl)ethanone
A mixture of ethyl 3-(2-fluoro-3,6-dimethoxyphenyl)-2-(3-methoxyphenyl)-3-oxopropanoate (7.8 g, 20.7 mmol) in DMSO (75 mL) and brine (7.5 mL) was stirred at 150° C. for 5 h. The reaction mixture was concentrated in vacuo and the residue was purified by silica gel column chromatography (1:10 EtOAc/petroleum ether) to give the title compound (3.6 g). 1H NMR (CDCl3): δ 7.24-7.15 (m, 1H), 6.90 (t, 1H), 6.84-6.75 (m, 3H), 6.56 (dd, 1H), 4.08 (s, 2H), 3.82 (s, 3H), 3.77 (s, 3H), 3.76 (s, 3H).

reactant | ethyl 3-(2-fluoro-3,6-dimethoxyphenyl)-2-(3-methoxyphenyl)-3-oxopropanoate | 20.7 mmol, 7.8 g | FC1=C(C(=CC=C1OC)OC)C(C(C(=O)OCC)C1=CC(=CC=C1)OC)=O | C20H21FO6
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | brine | 7.5 mL | [Cl-].[Na+].O
product | 1-(2-Fluoro-3,6-dimethoxyphenyl)-2-(3-methoxyphenyl)ethanone | 3.6 g | FC1=C(C(=CC=C1OC)OC)C(CC1=CC(=CC=C1)OC)=O | C17H17FO4
